US04115224
Illustrative examples of compounds according to the general formula hereinbefore defined are: 2-chloro-4'-tert.butylacetophenone; 2,2-di-chloro-4'-tert.butylacetophenone; 2-chloro-4'-octylacetophenone; 2,2-di-chloro-4'-octylacetophenone; 2-chloro-4'-n-C8-13 -alkylacetophenone; 2,2-dichloro-4'-n-C8- alkylacetophenone; 2,2,2-trichloro-4'-n-C8-13 alkylacetophenone in which the alkyl groups range from 8-13 carbon atoms (derived from C8-13 alkylbenzene with the trade name Dobane 83 X); 2,2-dichloro-4'-octyloxyacetophenone; 2,2,2-trichloro-4'-octyloxyacetophenone; 2,2-dichloro2',4'-diisopropylacetophenone; 2,2,2-trichloro-2',4'-diisopropylacetophenone or mixtures of these compounds. Preferably, however, the new compund 2,2,2-trichloro-4'-tert.butylacetophenone is used. This compound may be prepared in an analogous way to that described in J.A.C.S. 72 (1950) pages 3952-3 for the preparation of trichloroacetophenone, namely by treating 4-tert.butylacetophenone with chlorine. The starting 4-tert.butylacetophenone may be obtained in the manner described in J.A.C.S. 68 (1946) page 1107 by a Friedel-Crafts acetylation of tert.butylbenzene with acetyl chloride in a solvent, such as carbon tetrachloride. The compound 2,2,2-trichloro-4'-tert.butylacetophenone may also be obtained in an analogous way to that described in Houben-Weyl 5/3 page 790 for the preparation of trichloro-2',4',6'-trimethylacetophenone. The compound may also be prepared directly by a Friedel-Crafts reaction of tert.butylbenzene with trichloroacetyl chloride in carbon disulphide as described in J. Indian Chem. Soc. 26 (1947) pages 287-9. It is also possible to use trichloro-acetonitrile instead of trichloro-acetyl chloride as described in J. Prakt. Chem. (2) 123 (1929) 313.

reactant | tert.butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,2,2-trichloro-4'-tert.butylacetophenone | ClC(C(=O)C1=CC=C(C=C1)C(C)(C)C)(Cl)Cl | C12H13Cl3O
